US08334301B2
N-methyl-1-(1-{[(4-methylphenyl)thio]methyl}-2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride
To a solution of tert-butyl methyl[(2-phenyl-1H-imidazol-4-yl)methyl]carbamate (350 mg) in dimethylformamide (5 mL) was added sodium hydride (60% in oil, 421 mg) and the mixture was stirred for 1 hr. 1-[(Chloromethyl)thio]-4-methylbenzene (316 mg) was added dropwise, and the mixture was stirred at 80° C. for 15 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The extract was washed with water, 3% aqueous potassium hydrogensulfate solution, saturated sodium hydrogen carbonate solution and saturated brine in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=4:1→1:4) and dissolved in methanol (10 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added and the mixture was stirred at 75° C. for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 31 mg, yield 6.4%).

reactant | tert-butyl methyl[(2-phenyl-1H-imidazol-4-yl)methyl]carbamate | 350 mg | CN(C(OC(C)(C)C)=O)CC=1N=C(NC1)C1=CC=CC=C1 | C16H21N3O2
reactant | sodium hydride | 421 mg | [H-].[Na+]
reactant | 1-[(Chloromethyl)thio]-4-methylbenzene | 316 mg | ClCSC1=CC=C(C=C1)C | C8H9ClS
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-methyl-1-(1-{[(4-methylphenyl)thio]methyl}-2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride | yield 31 mg, yield 6.4% | Cl.Cl.CNCC=1N=C(N(C1)CSC1=CC=C(C=C1)C)C1=CC=CC=C1 | InChI=1S/C19H21N3S.2ClH/c1-15-8-10-18(11-9-15)23-14-22-13-17(12-20-2)21-19(22)16-6-4-3-5-7-16;;/h3-11,13,20H,12,14H2,1-2H3;2*1H
